US04339443
Sodium acetylphenylphosphinate
Methyl acetylphenylphosphinate (5.0 g, 0.025 mol) was added to a solution of sodium iodide (3.8 g, 0.025 mol) in molecular sieve dried ethyl methyl ketone (50 ml) and the resulting solution was stirred and refluxed for 15 minutes.

reactant | Methyl acetylphenylphosphinate | 0.025 mol, 5.0 g | C(C)(=O)P(OC)(=O)C1=CC=CC=C1 | C9H11O3P
reactant | sodium iodide | 0.025 mol, 3.8 g | [I-].[Na+]
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
product | Sodium acetylphenylphosphinate | C(C)(=O)P([O-])(=O)C1=CC=CC=C1.[Na+] | InChI=1S/C8H9O3P.Na/c1-7(9)12(10,11)8-5-3-2-4-6-8;/h2-6H,1H3,(H,10,11);/q;+1/p-1
